US04186199
1-(2-Nitrophenyl)indoline
11.0 g (0.10 mole) of indoline and 28.2 g of 1-fluoro-2-nitrobenzene are combined and the resultant solution is stirred and heated to 120° C. and kept at that temperature 18 hours. The reaction mixture is then cooled to room temperature and partitioned between chloroform and water. The chloroform layer is separated, washed with water, dried and concentrated in vacuum. The residue is dissolved in isopropylether from which 1-(2-nitrophenyl)indoline, m.p. 62°-64° C., precipitates on standing.

reactant | indoline | 0.10 mole, 11.0 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1-fluoro-2-nitrobenzene | 28.2 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-(2-Nitrophenyl)indoline | [N+](=O)([O-])C1=C(C=CC=C1)N1CCC2=CC=CC=C12 | C14H12N2O2
